US06331640B1
3-(1-butanesulfonyl)amino-N-[2-chloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-L-alanine;
3-[(2-acetamido-4-methylthiazol-5-yl)sulfonyl]amino-N-[2-chloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-L-alanine; N-[2,6-dimethyl-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-bromo-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine), and N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine;

reactant | 3-[(2-acetamido-4-methylthiazol-5-yl)sulfonyl]amino-N-[2-chloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-L-alanine | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)Cl)=O)C(=O)O | C29H28ClN5O7S2
reactant | N-[2,6-dimethyl-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | CC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)C | C30H29N3O5S
reactant | N-[2-bromo-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | BrC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12 | C28H24BrN3O5S
reactant | N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)Cl | C28H23Cl2N3O5S
product | 3-(1-butanesulfonyl)amino-N-[2-chloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-L-alanine | C(CCC)S(=O)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)Cl)=O)C(=O)O | C27H30ClN3O6S
